US05624950
To a solution of 7 g of (3aRS,4RS,7aSR)-2-benzyl-7,7-dimethoxy -4-(2-methoxyphenyl)-4-perhydroisoindolol in 70 cm3 of dry dichloromethane are added 6.5 cm3 of triethylamine and 6.5 cm3 of trifluoroacetic acid. After stirring for 3 hours at room temperature, the reaction mixture, cooled to +5° C., is basified with 50 cm3 of 1N sodium hydroxide. The organic phase is separated out, washed with water, dried over magnesium sulphate and then concentrated to dryness under reduced pressure (2.7 kPa). The oil obtained is crystallized in diisopropyl ether. The solid, washed with petroleum ether, is then drained and dried under reduced pressure at 40° C. 3.4 g of (3aRS,7RS,7aSR)-2-benzyl-7-hydroxy -7-(2-methoxyphenyl)-4)-perhydroisoindolone are obtained, in the form of a cream-coloured solid. M.p.=96C.

reactant | (3aRS,4RS,7aSR)-2-benzyl-7,7-dimethoxy -4-(2-methoxyphenyl)-4-perhydroisoindolol | 7 g | C(C1=CC=CC=C1)N1CC2C(CCC(C2C1)(O)C1=C(C=CC=C1)OC)(OC)OC | C24H31NO4
reactant | triethylamine | 6.5 cm3 | C(C)N(CC)CC | C6H15N
reactant | trifluoroacetic acid | 6.5 cm3 | FC(C(=O)O)(F)F | C2HF3O2
reactant | sodium hydroxide | 1N, 50 cm3 | [OH-].[Na+]
solvent | dichloromethane | 70 cm3 | ClCCl | CH2Cl2
product | perhydroisoindolone | C1(NCC2CCCCC12)=O | C8H13NO
